US05155122
In a manner analogous to Example 59, 0.8 g (0.002 mole) of 5-[3,5-bis(1,1-dimethylethyl)-4-[(2methoxyethoxy)methoxy]phenyl]-3-bromo-1,2,4-oxadiazole is reacted with 2.0 g (0.009 mole) of zinc bromide to give 0.4 g (65%) of 4-(3-bromo-1,2,4-oxadiazol-5-yl)-2,6-bis(1,1-dimethylethyl)phenol, mp 113°-115° C.

reactant | 5-[3,5-bis(1,1-dimethylethyl)-4-[(2methoxyethoxy)methoxy]phenyl]-3-bromo-1,2,4-oxadiazole | 0.002 mole, 0.8 g | CC(C)(C)C=1C=C(C=C(C1OCOCCOC)C(C)(C)C)C1=NC(=NO1)Br | C20H29BrN2O4
catalyst | zinc bromide | 0.009 mole, 2.0 g | [Br-].[Zn+2].[Br-]
product | 4-(3-bromo-1,2,4-oxadiazol-5-yl)-2,6-bis(1,1-dimethylethyl)phenol | 0.4 g, 65% | BrC1=NOC(=N1)C1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C | C16H21BrN2O2
